US05510320
Preparation of 3-(2-propynylthio)-1H-1,2,4-triazole
To a solution of 21.8 g of potassium hydroxide in 400 ml of methanol under nitrogen was added 33.37 g of 1,2,4-triazole-3-thiol. The resulting mixture was stirred at ambient temperature for ~1 hour. To this mixture was added 33.4 ml of propargyl bromide dropwise while keeping the reaction temperature below 30° C. After the addition, the resulting mixture was stirred at ambient temperature for ~4 hours and was then concentrated under reduced pressure. The residue was triturated in 300 ml of water. The precipitate was collected by filtration, washed with water and then hexanes, air dried and then dried in oven to give 24.6 g of the title product as a solid, m.p. 102°-104° C. NMR (DMSO-d6): 3.14 (t, 1H); 3.92 (d, 2H); 8.48 (s, 1H); 14.2 (bs, 1H).

reactant | potassium hydroxide | 21.8 g | [OH-].[K+]
reactant | 1,2,4-triazole-3-thiol | 33.37 g | N1N=C(N=C1)S | C2H3N3S
reactant | propargyl bromide | 33.4 ml | C(C#C)Br | C3H3Br
solvent | methanol | 400 ml | CO | CH4O
product | 3-(2-propynylthio)-1H-1,2,4-triazole | 24.6 g | C(C#C)SC1=NNC=N1 | C5H5N3S
